US06130234
4-Benzyl-1-(4-phenyl-3-butynyl)piperidine
A mixture of 1-mesyl-4-phenylbut-3-yne (200 mg, 0.87 mmol), 4-benzylpiperidine (175 mg, 1.00 mmol) and K2CO3 (368 mg, 2.67 mmol) in CH3CN (10 mL) is refluxed for 12 hr. The mixture is filtered and washed with EtOAc (3×15 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as an oil (100 mg, 38%): 1H NMR (CDCl3) 1.45 (m, 2 H), 1.52 (m, 1 H), 1.65 (m, 2 H), 2.05 (t, J=6.6 Hz, 2 H), 2.54 (m, 2 H), 2.68 (m, 4 H), 2.97 (d, J=11 Hz, 2 H), 7.13-7.36 (m, 10 H).

reactant | 1-mesyl-4-phenylbut-3-yne | 0.87 mmol, 200 mg | S(=O)(=O)(C)CCC#CC1=CC=CC=C1 | C11H12O2S
reactant | 4-benzylpiperidine | 1.00 mmol, 175 mg | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | K2CO3 | 2.67 mmol, 368 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-Benzyl-1-(4-phenyl-3-butynyl)piperidine | 100 mg, 38% | C(C1=CC=CC=C1)C1CCN(CC1)CCC#CC1=CC=CC=C1 | C22H25N
